US04666927
β-Alanine (5 g) in water (50 ml) is added to 3-benzyloxy-2-methyl-4-pyrone (10 g) in 95% ethanol (100 ml) and sodium hydroxide (4 g) in water (50 ml) is then slowly added to the reaction mixture until a pH of 13 is obtained. The solution is refluxed for 15 minutes during which time the colour changes from yellow to amber. After cooling, the solution is acidified to pH 2.5 with concentrated HCl (about 2 ml) and is then rotary evaporated at 50° C. The resulting oil is subjected to a methylene chloride/water extraction. The solid which remains is triturated with acetone and recrystallised from water to give 3-benzyloxy-1-(2'-carboxyethyl)-2-methylpyrid-4-one, m.p. 81°-83° C.

reactant | β-Alanine | 5 g | NCCC(=O)O | C3H7NO2
reactant | 3-benzyloxy-2-methyl-4-pyrone | 10 g | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | HCl | about 2 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 3-benzyloxy-1-(2'-carboxyethyl)-2-methylpyrid-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCC(=O)O)C | C16H17NO4
